US04088652
Preparation of 3-Cyclohexylcarbonyl-1-phenyl-3-azabicyclo[3.1.0]hexane
A 6.4 g. portion of 1-phenyl-3-azabicyclo[3.1.0]hexane is added to 60 ml. of benzene. A 4.2 g. portion of sodium carbonate in 40 ml. of water is added with stirring. A 5.9 g. portion of cyclohexylcarbonyl chloride in 40 ml. of benzene is added and the mixture is stirred overnight. The oily solid in the aqueous layer is extracted with chloroform. The extracts are washed with water and dilute hydrochloric acid, dried over magnesium sulfate, filtered and evaporated. The oily residue is extracted with ether giving a white solid as the product, mp 81°-82° C.

reactant | 1-phenyl-3-azabicyclo[3.1.0]hexane | C1(=CC=CC=C1)C12CNCC2C1 | C11H13N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyclohexylcarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 3-Cyclohexylcarbonyl-1-phenyl-3-azabicyclo[3.1.0]hexane | C1(CCCCC1)C(=O)N1CC2(CC2C1)C1=CC=CC=C1 | C18H23NO
